US04120727
4:1 Copolymer of acrylamide/β-cyanoethyl methacrylate
The procedure of Example I was followed with 3.48 g of β-cyanoethyl methacrylate (commercially available from Union Carbide Corp., New York, New York) instead of β-cyanoethyl acrylate.

reactant | β-cyanoethyl methacrylate | 3.48 g | C(C(=C)C)(=O)OCCC#N | C7H9NO2
reactant | β-cyanoethyl acrylate | C(C=C)(=O)OCCC#N | C6H7NO2
product | acrylamide β-cyanoethyl methacrylate | C(C=C)(=O)N.C(C(=C)C)(=O)OCCC#N | InChI=1S/C7H9NO2.C3H5NO/c1-6(2)7(9)10-5-3-4-8;1-2-3(4)5/h1,3,5H2,2H3;2H,1H2,(H2,4,5)
